US08012956B2
To a pressure vessel were added ethyl 3-bromo-4-cyanobenzoate (500 mg, 1.97 mmol), cesium carbonate (1.28 g, 3.94 mmol), pentan-3-amine (688 uL, 5.90 mmol), XANTPHOS (114 mg, 0.20 mmol), tris(dibenzylideneacetone)dipalladium(0) (90 mg, 0.10 mmol), and dioxane (3 mL). The vessel was sealed and heated to 95° C. for 15 h. After cooling to room temperature, the mixture was filtered through celite and the filter cake rinsed with ethyl acetate. The filtrate was then concentrated and the residue was purified by column chromatography (10% ethyl acetate in hexanes) to provide ethyl 4-cyano-3-(pentan-3-ylamino)benzoate (315 mg, 1.21 mmol, 61% yield) as a yellow syrup. 1H NMR (400 MHz, CDCl3): 7.43 (d, 1H), 7.33 (s, 1H), 7.25 (dd, 1H), 4.44-4.35 (m, 3H), 3.48-3.40 (m, 1H), 1.72-1.48 (m, 4H), 1.40 (t, 3H), 0.96 (t, 6H); MS (EI) for C15H20N2O2: 261 (MH+).

reactant | ethyl 3-bromo-4-cyanobenzoate | 1.97 mmol, 500 mg | BrC=1C=C(C(=O)OCC)C=CC1C#N | C10H8BrNO2
reactant | cesium carbonate | 3.94 mmol, 1.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pentan-3-amine | 5.90 mmol, 688 uL | CCC(CC)N | C5H13N
reactant | XANTPHOS | 0.20 mmol, 114 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.10 mmol, 90 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-cyano-3-(pentan-3-ylamino)benzoate | 1.21 mmol, 315 mg, 61% yield | C(#N)C1=C(C=C(C(=O)OCC)C=C1)NC(CC)CC | C15H20N2O2
